US04130568
To a solution of 0.70g. (3.02 mmoles) of 2-methyl-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one in 15 ml. of diphenyl ether was added 0.70 g. of 10% Pd/C. The mixture was heated under reflux for 6.0 hours, cooled, and filtered over Celite (washing with methanol). The methanol was removed from the filtrate by rotary evaporation, and the remaining solution of the product in diphenyl ether was diluted with 200 ml. of pet. ether. After standing overnight, the solid which separated was filtered off and washed with pet. ether to yield 9-methoxy-2-methyl-7H-furo[3,2-g][1]benzopyran-7-one. Recrystallization from ethanol afforded an analytical sample, mp 149°-150°.

reactant | 2-methyl-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one | 3.02 mmoles | CC1CC=2C(=C(C3=C(C=CC(O3)=O)C2)OC)O1 | C13H12O4
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
catalyst | Pd/C | [Pd] | Pd
product | 9-methoxy-2-methyl-7H-furo[3,2-g][1]benzopyran-7-one | COC1=C2C(=CC=3C=CC(OC31)=O)C=C(O2)C | C13H10O4
